US08877782B2
e) 6-(3-Phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester
To a solution of (3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-methanol (100 mg, 0.41 mmol) in THF (5 mL) was added 6-hydroxy-nicotinic acid methyl ester (69.3 mg, 0.45 mmol) and triphenylphosphine (162 mg, 0.62 mmol) at ambient temperature under an argon atmosphere. Then diethyl azodicarboxylate (96 μL, 0.62 mmol) was added and the reaction mixture was heated at 50° C. for 2 h. After cooling to room temperature the mixture was evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (66 mg, 42%) as all off-whit solid. MS: m/e=379.5 [M+H]+.

reactant | (3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-methanol | 0.41 mmol, 100 mg | C1(=CC=CC=C1)C1=NOC(=C1CO)C(F)(F)F | C11H8F3NO2
reactant | 6-hydroxy-nicotinic acid methyl ester | 0.45 mmol, 69.3 mg | COC(C1=CN=C(C=C1)O)=O | C7H7NO3
reactant | triphenylphosphine | 0.62 mmol, 162 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.62 mmol, 96 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(3-Phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 66 mg, 42% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
